datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)C[Si:11](C)(C)[H:10].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC(C)(C)C[Si+:11](C)C.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20"
"C[N:14]1[C:13]2=[C:12]([CH:11]([H:10])[C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[N+:14]1=[C:13]2[C:12](=[CH:11][C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2.FC(F)[S:20][H:10] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1CCC[C:11](=[CH2:10])CCC1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([CH2:10][C+:11]2CCCCCCC2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20"
"C1C[C:20](=[O:21])CCS1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([C:20]2([O-:21])CCSCC2)S1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C2=CC=CC=C2)=[O:64])C=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([CH2:10][C:11](C1=CC=CC=C1)=[NH+:12][C:63](C1=CC=CC=C1)=[O:64])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.CC(C)(C)[C:62]1=[C:61]([O-:10])[C:72](C(C)(C)C)=[CH:73][CH:64]=[CH:63]1>>CC(C)(C)[C:62]1=[C:61]([O:10][CH2:20][CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:72](C(C)(C)C)=[CH:73][CH:64]=[CH:63]1 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[C:11]1=[N:10][CH:61]=[C:62](C)[NH:12]1>>CC[O:33][C:22](=[CH:21][CH2:20][N:10]1[C:11](C)=[NH+:12][C:62](C)=[CH:61]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1.C[C:11](=[CH2:10])[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11](C)[CH2:62][Sn:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)C[C:11]([O-:12])=[CH:10][C:61](=[O:62])C1.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>CC1(C)C[C:11](=[O:12])[CH:10]([CH:20]2[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[C:61](=[O:62])C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1C[NH:10][CH:61]([C:62]([F:63])([F:73])[F:83])C1.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[NH+:10]1CCC[CH:61]1[C:62]([F:63])([F:73])[F:83] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CC1.CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1>>CN(C)C1=CC=C([CH:20]([CH2:10][C:11](=[N+:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10,11=10,20;12=11,12;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.[N-]=[N+]=NC[C@@H]1CCC[NH:10]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCC[C@H]2CN=[N+]=[N-])[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]2=[N:35]O[N:42]=[C:41]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=C[C:62]2=[C:63](C=C1)[C:71](=[O:72])[N-:10][C:61]2=[O:62].F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C:61](=[O:62])[C:62]3=[C:63](C=CC=C3)[C:71]2=[O:72])[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
